US06521754B2
4-(4-Methoxy-3-nitro-phenyl)-morpholine
4-Bromo-2-nitroanisol (8.5 g, 36 mmol), morpholine (3.8 ml, 44 mmol), potassium phosphate (11 g, 51 mmol), 2-biphenyl-dicyclohexyl phosphine (960 mg, 2.7 mmol) and palladium(II)acetate (411 mg, 1.8 mmol) are dissolved in dimethoxyethane (80 ml) and stirred at 80° C. for 96 hours. The mixture is then cooled to room temperature, diluted with ethyl acetate (50 ml) and filtrated through dicalite. Flash chromatography on silica (eluent dichloromethane/methanol 99:1) affords the product as red solid (6.0 g, 69%). MS: m/e=238 (M+).

reactant | 4-Bromo-2-nitroanisol | 36 mmol, 8.5 g | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | morpholine | 44 mmol, 3.8 ml | N1CCOCC1 | C4H9NO
reactant | potassium phosphate | 51 mmol, 11 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethoxyethane | 80 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 1.8 mmol, 411 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-Methoxy-3-nitro-phenyl)-morpholine | 6.0 g, 69% | COC1=C(C=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C11H14N2O4
